US06150352
Step 3.1A 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester (0.864 g in 38 mL dry tetrahydrofuran) was added 1.56 g of 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro- 1H-quinolin-2-one followed by 1.19 g of triphenylphosphine and the mixture stirred at room temperature. To this was added 0.72 mL of diethyl azodicarboxylate (DEAD) and stirring was continued for 64 hours. At this time the solvents were removed in vacuo and the residue purified by flash chromatography on silica gel (hexane:ethyl acetate, 6:4) to give the title compound (1.56 g).

reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 38 mL, 0.864 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
reactant | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro- 1H-quinolin-2-one | 1.56 g | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O)[N+](=O)[O-] | C17H13ClN2O4
reactant | triphenylphosphine | 1.19 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.72 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.56 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC(=C1)C)C | C29H34ClN3O6
